US03987105
In a preferred embodiment of the invention, m-hydroxybenzaldehyde and dimethoxymethane are dissolved in methylene chloride and p-toluenesulfonic acid monohydrate is added. The mixture is refluxed overnight using a Soxhlet extractor containing type 3A molecular sieves, and the product, m-methoxymethoxybenzaldehyde, is isolated and purified by standard procedures. For example, after the reaction mixture cools, triethylamine is added to neutralize the acid catalyst and the mixture is washed with dilute sodium hydroxide solution and water, dried over sodium sulfate and evaporated. The residue is purified by distillation.

reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | dimethoxymethane | COCOC | C3H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | m-methoxymethoxybenzaldehyde | COCOC=1C=C(C=O)C=CC1 | C9H10O3
